US08729102B2
D) tert-butyl [(1S)-2-(3-fluoro-4-nitrophenoxy)-1-methylethyl]carbamate
To a mixture of 3-fluoro-4-nitrophenol (2.02 g), tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate (5.62 g), triphenylphosphine (8.41 g) and THF (60 mL) was added dropwise a toluene solution (1.9 M, 16.9 mL) of diisopropyl azodicarboxylate at room temperature, and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a pale-yellow solid (4.03 g).

reactant | 3-fluoro-4-nitrophenol | 2.02 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate | 5.62 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triphenylphosphine | 8.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 1.9 M, 16.9 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-butyl [(1S)-2-(3-fluoro-4-nitrophenoxy)-1-methylethyl]carbamate | 4.03 g | FC=1C=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=CC1[N+](=O)[O-] | C14H19FN2O5
